US04340734
3-Diphenylmethyl-2,3,6,7-tetrahydro-5H-thiazolo-[3,2-a]pyrimidin-3-ol hydrobromide
A 2.1 g. portion of 1,1-diphenyl-2-propanone is converted to 1-bromo-3,3-diphenyl-2-propanone by the procedure of Example 22. The 1-bromo-3,3-diphenyl-2-propanone is dissolved in 15 ml. of acetone and added to a boiling mixture of 0.80 g. of tetrahydro-2-pyrimidinethione in 70 ml. of acetone. This mixture is allowed to stand for 48 hours and the resulting solid is collected by filtration, giving the desired product, m.p. 196°-198° C.

reactant | 1,1-diphenyl-2-propanone | C1(=CC=CC=C1)C(C(C)=O)C1=CC=CC=C1 | C15H14O
reactant | 1-bromo-3,3-diphenyl-2-propanone | BrCC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C15H13BrO
reactant | tetrahydro-2-pyrimidinethione | N1C(NCCC1)=S | C4H8N2S
solvent | acetone | CC(=O)C | C3H6O
product | 3-Diphenylmethyl-2,3,6,7-tetrahydro-5H-thiazolo-[3,2-a]pyrimidin-3-ol hydrobromide | Br.C1(=CC=CC=C1)C(C1(CSC=2N1CCCN2)O)C2=CC=CC=C2 | InChI=1S/C19H20N2OS.BrH/c22-19(14-23-18-20-12-7-13-21(18)19)17(15-8-3-1-4-9-15)16-10-5-2-6-11-16;/h1-6,8-11,17,22H,7,12-14H2;1H
